US04940710
A 29.1 g portion of 2,3-dibromopropionic acid, ethyl ester was dissolved in 90 ml of dry toluene at 40° C. in an oil bath. With vigorous stirring, a stream of a solution of 26.8 g of N,N'-dibenzylethylenediamine and 30.5 ml of triethylamine in 28 ml of dry toluene was added. The temperature was raised to 80° C. and stirring continued for 3 hours. The mixture was filtered, the solid washed with two 50 ml portions of toluene and the filtrate and washes combined. The solution was washed with three 50 ml portions of water, dried, filtered and concentrated to an oil. The oil was distilled and the fraction boiling at 185°-195° C., 0.75 mm collected, giving 1,4-bis(phenylmethyl)-2-piperazinecarboxylic acid, ethyl ester as a yellow oil.

reactant | 2,3-dibromopropionic acid, ethyl ester | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | N,N'-dibenzylethylenediamine | 26.8 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | triethylamine | 30.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-bis(phenylmethyl)-2-piperazinecarboxylic acid, ethyl ester | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
